US04678789
1-[2-(2,4-Dichlorophenyl)-2-hydroxy-3-(1-methylimidazol-2-ylthio)-propyl]-1,2,4-triazole
2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl-methyl)-oxirane (0.27 g, 0.001 m), and 2-mercapto-1-methylimidazole (0.228 g, 0.002 m) were heated under reflux in dioxan for 72 hours. The dioxan was then evaporated and the residue was dissolved in ethyl acetate (70 ml). This solution was washed sequentially with dilute potassium carbonate solution, dilute sodium hydroxide solution, and water dried (MgSO4) and evaporated to give an oil which crystallized on standing. Recrystallization from ethyl acetate/hexane gave the title compound 0.252 g (66%); m.p. 159°-161° C.

reactant | 2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl-methyl)-oxirane | 0.27 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1 | C11H9Cl2N3O
reactant | 2-mercapto-1-methylimidazole | 0.228 g | SC=1N(C=CN1)C | C4H6N2S
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 1-[2-(2,4-Dichlorophenyl)-2-hydroxy-3-(1-methylimidazol-2-ylthio)-propyl]-1,2,4-triazole | 0.252 g, 66% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CSC=1N(C=CN1)C)O | C15H15Cl2N5OS
